US04118742
When the procedure of Example 71 was repeated using 4.1 g. (12 mmole) of 1-dimethylaminosulfonyl-2-amino-6-benzoylbenzimidazole in 180 ml. of tetrahydrofuran, 100 ml. tetrahydrofuran, and 28.6 ml. (60 mmole) of isopropyl magnesium chloride in 100 ml. of tetrahydrofuran, there was obtained 1-dimethylaminosulfonyl-2-amino-6-(α-isopropyl-α-hydroxybenzyl)benzimidazole, yield 65%.

reactant | 1-dimethylaminosulfonyl-2-amino-6-benzoylbenzimidazole | 12 mmole | CN(S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)=O)N)C | C16H16N4O3S
reactant | isopropyl magnesium chloride | 60 mmole | C(C)(C)[Mg]Cl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-dimethylaminosulfonyl-2-amino-6-(α-isopropyl-α-hydroxybenzyl)benzimidazole | yield 65% | CN(S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)(O)C(C)C)N)C | C19H24N4O3S
